US05859051
Step 3: Preparation of methyl 3-chloro-4-(3 bromopropylamino)-phenylacetate
Magnesium oxide (10 grams, 250 mmoles), was added to a solution of 1,3-dibromopropane (139 grams, 70 mL, 700 mmoles) in dimethylacetamide (150 mL). A solution of methyl 3-chloro-4-aminophenylacetate.HCl (23.6 grams, 100 mmoles) in dimethylacetamide (200 mL) was added dropwise over 30 minutes and the mixture stirred at 80° C. for 6 hours. The cooled mixture was partitioned with methylene chloride and water. The aqueous phase was extracted with methylene choride and the combined organic phases washed with brine, dried over magnesium sulfate and concentrated in vacuo to an oil. The crude product was chromatographed on a silica gel column eluting with hexane:ethyl acetate (9:1). The product was further purified by a second silica gel chromatography in methylene chloride:hexane (2:3) to give the title compound as an oil. NMR, (CDCl3): δ2.15 (qnt, 2H); 3.35 (q, 2H); 3.47 (s,2H); 3.49 (t, 2H); 3.67 (s, 3H); 6.63 (d, 1H); 7.03 (dd, 1H); 7.17 (d, 1H).

reactant | Magnesium oxide | 250 mmoles, 10 grams | [O-2].[Mg+2]
reactant | 1,3-dibromopropane | 700 mmoles, 70 mL, 139 grams | BrCCCBr | C3H6Br2
reactant | methyl 3-chloro-4-aminophenylacetate | ClC=1C=C(C=CC1N)CC(=O)OC | C9H10ClNO2
reactant | HCl | 100 mmoles, 23.6 grams | Cl | ClH
solvent | dimethylacetamide | 150 mL | CC(=O)N(C)C | C4H9NO
solvent | dimethylacetamide | 200 mL | CC(=O)N(C)C | C4H9NO
product | methyl 3-chloro-4-(3 bromopropylamino)-phenylacetate | ClC=1C=C(C=CC1NCCCBr)CC(=O)OC | C12H15BrClNO2
